US06525220B2
4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxyacetic acid
To a solution of 4-(2,4-dioxo-3-tritylthiazolidin-5-ylmethyl)phenoxyacetic acid t-butyl ester (6.2 g) in toluene (25 ml) was added p-toluenesulfonic acid mono-hydrate (204 mg) and the mixture was heated under reflux for 3 hours. At elevated temperature ethyl acetate (10 ml) was added and the mixture was stirred at 25° C. for 1.5 hours. The precipitated crystals were filtered to give the desired compound (2.5 g).

reactant | 4-(2,4-dioxo-3-tritylthiazolidin-5-ylmethyl)phenoxyacetic acid t-butyl ester | 6.2 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C35H33NO5S
reactant | p-toluenesulfonic acid mono-hydrate | 204 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 2.5 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
